US07214681B2
2-(4-Nitrophenyl)-3-(tetrahydropyran-4-yl)propionic acid (Preparation 46, 10.40 g, 37.2 mmol) was condensed with thiazol-2-ylamine employing the procedure described in EXAMPLE 65 to afford 2-(4-nitrophenyl)-3-(tetrahydropyran-4-yl)-N-thiazol-2-ylpropionamide: m/z (ES+)=362.1 [M+H]+. The nitro group of this compound (6.55 g, 18.1 mmol) was reduced utilising the procedure described in EXAMPLE 145 to give 2-(4-aminophenyl)-3-(tetrahydropyran-4-yl)-N-thiazol-2-yl-propionamide: m/z (ES+)=332.1 [M+H]+. A solution of NaNO2 (2.11 g, 30.5 mmol) in H2O (20 mL) was added slowly to a stirred mixture of the above aniline (9.40 g, 28.4 mmol), 12M HCl (30 mL), and H2O (30 mL) at 0° C. After 1 h, the resulting diazonium salt solution was added over 15 min to a mixture of CuCl2.2H2O (1.29 g, 7.6 mmol) in AcOH (64.5 mL) and H2O (3.2 mL) which had been saturated previously with SO2. The mixture was stirred for 1.5 h, treated with H2O (200 mL) and extracted with EtOAc (300+150 mL). The combined EtOAc extracts were washed with H2O (2×200 mL), filtered, and dried (MgSO4). Filtration and solvent evaporation provided the title compound: m/z (ES+)=466.1 [M+MeCN+H]+.

reactant | 2-(4-Nitrophenyl)-3-(tetrahydropyran-4-yl)propionic acid | 37.2 mmol, 10.40 g | [N+](=O)([O-])C1=CC=C(C=C1)C(C(=O)O)CC1CCOCC1 | C14H17NO5
reactant | thiazol-2-ylamine | S1C(=NC=C1)N | C3H4N2S
product | 2-(4-nitrophenyl)-3-(tetrahydropyran-4-yl)-N-thiazol-2-ylpropionamide | [N+](=O)([O-])C1=CC=C(C=C1)C(C(=O)NC=1SC=CN1)CC1CCOCC1 | C17H19N3O4S
